US07964594B1
Procedure for intermediate Da3 (R1,2=cyclopropyl, R3=Me): A solution of the hydrochloride of 1-[(S)-1-amino-1-(2-fluoro-5-nitro-phenyl)-ethyl]-cyclopropanecarboxylic acid (1.8 g) in THF (10 ml) was cooled to 0° C. and treated with a solution of BH3-THF complex in THF (1M, 22.7 ml) and stirring was continued at 0° C. for 3 h. The reaction mixture was pored into crashed ice/saturated aqueous NaHCO3 (1/1, 200 ml), extracted with ethyl acetate, the organic layer was dried and evaporated to give crude {1-[(S)-1-amino-1-(2-fluoro-5-nitro-phenyl)-ethyl]-cyclopropyl}-methanol as a pale yellow solid. MS (ESI): m/z=255.2 [M+H]+.

reactant | hydrochloride | Cl | ClH
reactant | 1-[(S)-1-amino-1-(2-fluoro-5-nitro-phenyl)-ethyl]-cyclopropanecarboxylic acid | 1.8 g | N[C@](C)(C1=C(C=CC(=C1)[N+](=O)[O-])F)C1(CC1)C(=O)O | C12H13FN2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 1M, 22.7 ml | C1CCOC1 | C4H8O
product | {1-[(S)-1-amino-1-(2-fluoro-5-nitro-phenyl)-ethyl]-cyclopropyl}-methanol | N[C@](C)(C1=C(C=CC(=C1)[N+](=O)[O-])F)C1(CC1)CO | C12H15FN2O3
